* C:\Users\z0323908\OneDrive - ZF Friedrichshafen AG\Documents\github\openlab-drone\LTSpice-schematics\pwm_shenanigans.asc
* Generated by LTspice 26.0.2 for Windows.
R1 M_PWM 0 10k
R2 N004 M_PWM 100
V1 M_PWM 0 PULSE(0 3.3 0 500n 500n 16u 33u 10)
V2 N003 N005 4
R3 V_BAT N001 2.1
L1 N001 N002 20µ Rser=1m
D1 N002 V_BAT SD1206T040S2R0
L2 N005 0 50n Rser=1m
L3 V_BAT N003 50n Rser=1m
M1 N002 N004 0 0 AP9465GEM
.model D D
.lib C:\Users\z0323908\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\z0323908\AppData\Local\LTspice\lib\cmp\standard.mos
.include AO3400.mod
.tran 0 100u 0 10u
* motor simulation
.model SD1206T040S2R0 D(Is=50u Rs=0.08 N=1.05 Cjo=115p Bv=40 Ibv=1m Eg=0.69)
.backanno
.end
